US04411839
Four grams (18.9 mmol) of α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide is dissolved in hot ethanol/toluene. To this is added, portionwise, 4 g of 2,4,6-trichlorophenylhydrazine. The mixture is heated to reflux for three days. Cooling of the mixture and evaporation of the solvent gives the crude product, which is recrystallized from ethanol (3 X) to yield α-cyano-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide, m.p. =161° (dec.).

reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 18.9 mmol, Four grams | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | 2,4,6-trichlorophenylhydrazine | 4 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
solvent | ethanol toluene | C(C)O.C1(=CC=CC=C1)C
product | α-cyano-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNNC1=C(C=C(C=C1Cl)Cl)Cl | C13H11Cl3N4O3
